US05760235
Step A: O-Tetrahydropyranyl-3-phenyl-D-lactic acid cyclohexylammonium salt
6.64 g (40 mmole) of 3-phenyl-D-lactic acid and 3.7 g (44 mmole) of dihydropyran are reacted in acetonitrile according to the method of Obrecht and Heimgartner [Helv. Chim. Acta 67, 526 (1984)]. The reaction mixture is evaporated at 20-25 millibar from a water bath at about 40° C. The residue is dissolved in 20 ml of dichloromethane, washed with water, dried over sodium sulfate and repeatedly evaporated. The obtained O-tetrahydropyranyl-3-phenyl-D-lactic acid is dissolved in diethyl ether and converted into cyclohexylammonium salt. The crystals are filtered off, washed with diethyl ether and dried at reduced pressure.

reactant | 3-phenyl-D-lactic acid | 40 mmole, 6.64 g | C1(=CC=CC=C1)C[C@H](C(=O)O)O | C9H10O3
reactant | dihydropyran | 44 mmole, 3.7 g | O1CCCC=C1 | C5H8O
reactant | acetonitrile | C(C)#N | C2H3N
product | O-Tetrahydropyranyl-3-phenyl-D-lactic acid cyclohexylammonium salt | C1(CCCCC1)[NH3+].O1C(CCCC1)OC([C@H](O)CC1=CC=CC=C1)=O | InChI=1S/C14H18O4.C6H13N/c15-12(10-11-6-2-1-3-7-11)14(16)18-13-8-4-5-9-17-13;7-6-4-2-1-3-5-6/h1-3,6-7,12-13,15H,4-5,8-10H2;6H,1-5,7H2/p+1/t12-,13?;/m1./s1
